US08357635B2
To a stirred solution of trans N-{1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine (0.19 g; 0.83 mmol) prepared as described in example P18 and triethylamine (0.16 ml; 1.08 mmol) in dichloromethane (5.0 ml) at ambient temperature was added dropwise 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl chloride (0.18 g; 0.83 mmol). The reaction mixture was stirred for 16 hours at ambient temperature then poured in water (3 ml) and extracted with dichloromethane (3×1 ml). Combined organic layers were washed with water (1 ml) and dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (elution gradient: cyclohexane/ethyl acetate 99:1 to 30:70) to afford 0.26 g (79% of theory) of 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid {1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-methoxy-amide as a resin.

reactant | trans N-{1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | 0.83 mmol, 0.19 g | ClC1=CC=C(S1)[C@H]1[C@@H](C1)C(C)NOC | C10H14ClNOS
reactant | triethylamine | 1.08 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 0.83 mmol, 0.18 g | CN1N=C(C(=C1)C(=O)Cl)C(F)(F)F | C6H4ClF3N2O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | water | 3 ml | O | H2O
product | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid {1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethyl}-methoxy-amide | 0.26 g, 79% | ClC1=CC=C(S1)C1C(C1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)(F)F)OC | C16H17ClF3N3O2S
